US07723333B2
2-tert-Butyl-5-phenyl-4-[(1-pyridin-2-ylpiperidin-4-yl)amino]isothiazol-3(2H)-one 1,1-dioxide
2-tert-Butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide (0.175 g, 0.58 mmol), 1-pyridin-2-ylpiperidin-4-amine dihydrochloride (0.173 g, 0.69 mmol) and TEA (0.23 g, 2.31 mmol) was dissolved in dry DMF (3 ml) and heated in a microwave reactor at 130° C. for 30 mins. The reaction mixture was purified by preparative HPLC to yield the title compound (0.175 g, 69%). 1H NMR (500 MHz, CDCl3): δ 8.08-8.03 (m, 1H), 7.50-7.44 (m, 2H), 7.41-7.32 (m, 4H), 6.55-6.47 (m, 2H), 5.28-5.20 (m, 1H), 4.02-3.93 (m, 2H), 3.11-3.00 (m, 1H), 2.41-2.30 (m, 2H), 1.73-1.60 (m, 2H), 1.67 (s, 9H), 1.36-1.24 (m, 2H); 13C NMR (125 MHz, CDCl3): δ 159.8, 159.1, 148.0, 137.7, 134.2, 131.9, 130.1, 128.9, 125.4, 113.5, 107.5, 107.0, 61.7, 50.7, 44.1, 41.2, 32.0, 27.8; Mass Spectrum: M−H+ 441.

reactant | 2-tert-Butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.58 mmol, 0.175 g | C(C)(C)(C)N1S(C(=C(C1=O)Cl)C1=CC=CC=C1)(=O)=O | C13H14ClNO3S
reactant | 1-pyridin-2-ylpiperidin-4-amine dihydrochloride | 0.69 mmol, 0.173 g | Cl.Cl.N1=C(C=CC=C1)N1CCC(CC1)N
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 2-tert-Butyl-5-phenyl-4-[(1-pyridin-2-ylpiperidin-4-yl)amino]isothiazol-3(2H)-one 1,1-dioxide | 0.175 g, 69% | C(C)(C)(C)N1S(C(=C(C1=O)NC1CCN(CC1)C1=NC=CC=C1)C1=CC=CC=C1)(=O)=O | C23H28N4O3S
